US08383644B2
(S)-2-{[(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(R)-(+)-α-Methylbenzyl isocyanate (5 mg) was added to a solution of (S)-2-({(3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (20 mg) in 0.5 mL DCM and stirred for 1 h at room temperature. The reaction mixture was directly loaded onto a silica gel column (1:1 EtOAc/hexanes to 6% MeOH in 1:1 EtOAc/hexanes) to isolate the desired product (16 mg).

reactant | (R)-(+)-α-Methylbenzyl isocyanate | 5 mg | C[C@H](C1=CC=CC=C1)N=C=O | C9H9NO
reactant | (S)-2-({(3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 20 mg | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H39Cl2N3O6
reactant | MeOH | CO | CH4O
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-((R)-1-phenyl ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 16 mg | ClC=1C=C(COC=2C=C(C=CC2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(N[C@H](C)C3=CC=CC=C3)=O)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C50H46Cl2N4O7
